2169-01-12 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted
   Remained febrile
   Bronched and BAL sent for concentrated culture
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2169-1-11**] 07:11 PM
   Meropenem - [**2169-1-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-12**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.5
   HR: 99 (88 - 118) bpm
   BP: 118/50(66) {92/43(56) - 143/92(102)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (6 - 17)mmHg
   Total In:
                                                                  4,797 mL
                                                                    812 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
                                                                     17 mL
                                                                    352 mL
   IVF:
                                                                    600 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    340 mL
   Urine:
                                                                    445 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,327 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Agitated
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/50/174/34/8
   Ve: 10.1 L/min
   PaO2 / FiO2: 497
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory, Diminished:
   bibasilar, Rhonchorous: right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, PEG tube
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   8.4 g/dL
   81 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.7 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   25.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
   WBC
   7.3
   Hct
   25.3
   Plt
   150
   Cr
   1.1
   TCO2
   34
   Glucose
   81
   Other labs: PT / PTT / INR:15.6/43.0/1.4, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Imaging: CXR
   Microbiology: [**2169-1-11**]:
   Blood, urine, sputum, BAL, cath tip-NGTD
   -- Sputum [**12-20**]: ESBL Klebsiella - sensitive to imipenem, tetracycline,
   cefotetan, cefoxitin
   -- Sputum [**1-4**]: Acinetobacter - sensitive only to Amikacin
   -- Sputum [**2169-1-8**]: GNRs (light growth)
   -- Blood [**2169-1-10**]: NGTD
   -- Urine [**2169-1-8**]: No growth (final)
   -- Blood (2 sets) [**2169-1-8**]: NGTD
   -- Cdiff [**1-4**]: Negative
   -- Blood 12/28: No growth (final)
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress.
   # Fever.  Mutiple sources possible, with respiratory and line infection
   at top of list. Also consider urine (u/a borderline positive with 11-20
   wbcs), biliary, or stool.  Concern for treating sputum pathogens which
   may be colonizers and breeding further resistence.
   - s/p Bronchoscopy, f/u quantitative BAL culture
   - Broad coverage with vanco/meropenem; unclear if acinetobacter from
   [**2169-1-4**] sputum is colonizer
   - f/u cultures here
   - f/u [**Hospital 858**] Rehab culture data (esp from [**2169-1-8**])
   - ventilatory support as below
   - ID to consult
   # Respiratory failure.  Unclear the clincal senario which resulted in
   his being back on ventilator.  Per notes, pt with elev CO2 and resp
   distress.
   - ABG indicates good ventilation
   - continue AC volume control for now, wean FIO2
   - f/u cultures (BAL) as well as Heb Reb cultures
   - antibiotics as above
   # Metabolic alkylosis: Etiology unclear.  Could be contraction due to
   hypovolemia. Has respiratory compensation.  Received fluids in ED.
   - bolused 500 cc
   - repeat lab stable
   - monitor
   # Hypotension: Transient in ED.  Responded to IVF bolus.
   - if hypotensive again, will bolus to CVP 8-12 and then start pressor
   # DM2: continue Glargine and ISS.  FS QID
   # HTN: Hold antihypertensives while BP borderline
   # Reactive airway disease
   - on ventilatory support
   - continue nebs
   # Hypothyroidism: continue synthroid
   # CRF: Cr at baseline.  Renally dose meds
   # Anemia: Chronic per records.  Hct dropped to 25 from 30, which is
   closer to his baseline.
   - monitor daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Parkinson's disease: Continue Sinemet, Ropinirole
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   # FEN: Tube feeds.  Nutrition c/s
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-11**] 11:40 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-11**] 04:38 PM
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:  Fondaparinox SC daily
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: With wife.  [**Name (NI) **] discuss goal of care, ie
   pressors,etc
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-12 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to the MICU from the EW overnight after presenting from rehab
   with fevers x 4 days and respiratory distress requiring going back on
   the ventilator.
   Abx at rehab as follows:
   Imipenem since [**12-25**]
   Vancomycin since [**1-7**]
   Amikacin since [**1-10**]
   Has grown out acinetobacter and ESBL klebs from sputum most recently.
   In EW, mild hypotension responsive to fluids.  CVC place, no pressors
   required.
   Admitted to ICU, bronch'd overnight.  Pus seen in the LLL, BAL sent for
   [**Doctor Last Name 3870**] culture
   Mid-line removed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2169-1-11**] 07:11 PM
   Meropenem - [**2169-1-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Lansoprazole, Albuterol/Atrovent, Calcium, peridex, carbidopa/levodopa,
   ASA, colace, Zocor, ropinirole, levothyroxine, lantus, RISS,
   Vancomycin, Vit D, Tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-12**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.5
   HR: 95 (88 - 118) bpm
   BP: 118/66(78) {92/43(56) - 143/92(102)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 7 (6 - 17)mmHg
   Total In:
                                                                  4,797 mL
                                                                    891 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
                                                                     17 mL
                                                                    431 mL
   IVF:
                                                                    600 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    340 mL
   Urine:
                                                                    445 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,327 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Agitated
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/50/174/34/8
   Ve: 16.3 L/min
   PaO2 / FiO2: 497
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar,
   Rhonchorous: B/L L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese, G tube
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   150 K/uL
   81 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.7 mEq/L
   37 mg/dL
   107 mEq/L
   146 mEq/L
   25.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
   WBC
   7.3
   Hct
   25.3
   Plt
   150
   Cr
   1.1
   TCO2
   34
   Glucose
   81
   Other labs: PT / PTT / INR:15.6/43.0/1.4, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: Trach and R IJ in place.  LLL opacification.
   Microbiology: Rehab:
   sputum [**12-20**]:  ESBL klebs
   Sputum [**1-4**]:  Acinetobacter
   Sputum [**1-8**]:  GNR (not speciated)
   BCx [**1-1**]:  NGTD
   BCx  [**1-8**]: NGTD
   C diff [**1-4**]:  neg
   UCx [**1-8**]:  NGTD
   All our micro: pending
   Assessment and Plan
   66 yo M with multiple admission since [**Month (only) **] when he initially
   presented with SDH.  Courses have been complicated by strep bovis
   bacteremia, enterococcal aoritc endocarditis, MRSA bacteremia,
   respiratory failure secondary to pneumonia requiring intubation and
   subsequently tracheostomy.  Most recently has was admitted to MICU in
   early [**Month (only) 795**] with ESBL klebs and acinetobacter VAP.  Now admitted
   with new fevers and LLL infiltrate with pus in LLL on bronch.
   Fever:  Most likely source is obviously pneumonia.  Other possible
   sources include line infection, less likely UTI.
     -Follow up cultures including from bronch
     -ID to weigh in regarding optimal antibiotic regimen
     -Tylenol PRN
   Respiratory failure:  Related to pneumonia and prolonged critical
   illness.  Oxygenating well.
      -PSV trial today
      -Continue inhalers.
   Hypotension:  Transient overnight, now normotensive.
     -Close monitoring, bolus as needed
     -Hold anti-hypertensives
   CKD:  GRF at baseline for now
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-11**] 11:40 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2169-1-11**] 04:38 PM
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-01-13 07:55:00 Physician Resident Progress Note
Chief Complaint: fever
   pneumonia
   24 Hour Events:
   - remained febrile all day 101-102
   - ID consulted, begun on amikacin and IV colistin
   - was on PSV all day and evening, but ~8PM became more [**Last Name (LF) **], [**First Name3 (LF) **]
   switched back to A/C
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2169-1-11**] 07:11 PM
   Meropenem - [**2169-1-12**] 04:14 PM
   Colistin - [**2169-1-12**] 08:48 PM
   Amikacin - [**2169-1-12**] 09:05 PM
   Vancomycin - [**2169-1-12**] 09:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Vancomycin 1000mg Q12
   Amicakin 750mg Q18
   Colistin 250mg IV Q12
   Ipratropium IH Q4H
   Albuterol IH Q4H
   Colace/Senna/Bisacodyl prn
   Sinemet Q4H
   Ropinerol 3mg QID
   ASA 81
   Lansoprazole
   Levothyroxine
   Calcium carbonate
   Vitamin D
   Insulin Glargine and SS
   Chlorhexidine
   Tylenol PRN
   Fondaparinox 2.5mg daily
   Simvastatin 20mg Daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-13**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.8
C (100.1
   HR: 92 (92 - 137) bpm
   BP: 103/62(72) {96/31(56) - 168/129(221)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 7 (1 - 15)mmHg
   Total In:
                                                                  3,203 mL
                                                                  1,278 mL
   PO:
                                                                     90 mL
   TF:
                                                                  1,155 mL
                                                                    543 mL
   IVF:
                                                                  1,598 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    900 mL
   Urine:
                                                                  1,955 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                    378 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 480 (461 - 502) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 100
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 97%
   ABG: ///32/
   Ve: 15.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   167 K/uL
   8.3 g/dL
   67 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   32 mg/dL
   109 mEq/L
   147 mEq/L
   25.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
   WBC
   7.3
   8.2
   Hct
   25.3
   25.0
   Plt
   150
   167
   Cr
   1.1
   1.1
   TCO2
   34
   Glucose
   81
   67
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR
   Microbiology:
   [**2169-1-11**] urine: yeast
   [**2169-1-11**] blood: ngtd
   [**2169-1-11**] sputum: 1+ GNRs in sputum, culture pending
   [**2169-1-11**] picc tip: no growth
   [**2169-1-13**] blood - pending
   FROM [**Hospital **] REHAB:
   -- Sputum [**12-20**]: ESBL Klebsiella - sensitive to imipenem, tetracycline,
   cefotetan, cefoxitin
   -- Sputum [**1-4**]: Acinetobacter - sensitive only to Amikacin
   -- Sputum [**2169-1-10**]: 3 different GNRs, one with heavy growth
   -- Sputum [**2169-1-8**]: pseudomonas  (light growth)
   -- Blood [**2169-1-10**]: NGTD
   -- Urine [**2169-1-8**]: No growth (final)
   -- Blood (2 sets) [**2169-1-8**]: NGTD
   -- Cdiff [**1-4**]: Negative
   -- Blood 12/28: No growth (final)
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress.
   # Fever.  Most likely due to pneumonia, given result of pus in LLL on
   bronchoscopy.
   - other sources (picc line, biliary tree, urine -- no evidence
   infection on lab/micro data)
   - started treatment for multi-drug resistent acinetobacter with
   amikacin/IV colistin
   - continue Vanco for possibility of picc line infection; can consider
   stopping tomorrow if no gram positive growth
   - f/u cultures here
   - f/u [**Hospital 858**] Rehab culture data , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - ID input appreciated
   # Respiratory failure.  Unclear the clincal senario which resulted in
   his being back on ventilator.  Per notes, pt with elev CO2 and resp
   distress.
   - ABG indicates good ventilation
   - appears uncomfortable with high RR
 start Ativan 1mg IV Q4H PRN
   anxiety
   - was on PS during day, now back on AC volume control as was tiring
   overnight
   - f/u cultures (BAL) as well as Heb Reb cultures
   - antibiotics as above
   # Metabolic alkylosis: Etiology unclear.  Could be contraction due to
   hypovolemia. Improving.
   - monitor
   # Hypotension: Transient in ED.  Responded to IVF bolus.
   - if hypotensive again, will bolus to CVP 8-12 and then start pressor
   # DM2: continue Glargine and ISS.  FS QID
   # HTN: Hold antihypertensives while BP borderline
   # Reactive airway disease
   - on ventilatory support
   - continue nebs
   # Hypothyroidism: continue synthroid
   # CRF: Cr at baseline.  Renally dose meds.
   - monitor closely while on Amikacin
   # Anemia: Chronic per records.  Hct dropped to 25 from 30, which is
   closer to his baseline, then stabilized
   - monitor daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Parkinson's disease: Continue Sinemet, Ropinirole
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   # FEN: Tube feeds per nutrition
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-12**] 09:06 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondaparinox daily (h/o HIT))
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-13 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Started on amikacin and colistin IV per ID recommendations
   Sputum Cx from [**Hospital 858**] rehab with PSA (sensi's pending)
   Tachypneic on PSV overnight, changed back to A/C
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2169-1-11**] 07:11 PM
   Meropenem - [**2169-1-12**] 04:14 PM
   Amikacin - [**2169-1-12**] 09:05 PM
   Colistin - [**2169-1-13**] 08:00 AM
   Vancomycin - [**2169-1-13**] 08:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Prevacid, atrovent/albuterol, Calcium, Levodopa, ASA, colace, Zocor,
   ropinirole, levothyroxine, RISS, Lantus, Vit D, Fondaparinux,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-13**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.3
C (99.2
   HR: 102 (90 - 137) bpm
   BP: 126/65(76) {96/31(56) - 168/129(221)} mmHg
   RR: 25 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 7 (1 - 15)mmHg
   Total In:
                                                                  3,203 mL
                                                                  2,080 mL
   PO:
                                                                     90 mL
   TF:
                                                                  1,155 mL
                                                                    809 mL
   IVF:
                                                                  1,598 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                  1,250 mL
   Urine:
                                                                  1,955 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                    830 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 480 (461 - 480) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 100
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 13.5 L/min
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), distant heart tones
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : bilateral, Rhonchorous:
   Bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   167 K/uL
   67 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   32 mg/dL
   109 mEq/L
   147 mEq/L
   25.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
   WBC
   7.3
   8.2
   Hct
   25.3
   25.0
   Plt
   150
   167
   Cr
   1.1
   1.1
   TCO2
   34
   Glucose
   81
   67
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  Trach tube, CVC in place.  Unchanged LLL infiltrate
   Microbiology: Sputum ([**1-8**] from [**Hospital 858**] Rehab): PSA (light growth)
   BAL:  NGTD
   BCx ([**1-8**], [**1-10**]): NGTD
   Assessment and Plan
   66 yo M with multiple admission since [**Month (only) **] when he initially
   presented with SDH.  Courses have been complicated by strep bovis
   bacteremia, enterococcal aortic endocarditis, MRSA bacteremia,
   respiratory failure secondary to pneumonia requiring intubation and
   subsequently tracheostomy.  Most recently has was admitted to MICU in
   early [**Month (only) 795**] with ESBL klebs and acinetobacter VAP.  Now admitted
   with new fevers and LLL infiltrate with pus in LLL on bronch.
   Fever:  Most likely source is obviously pneumonia.  Other possible
   source includes line infection
     -Follow up cultures including from bronch
     -Appreciate ID input, currently on amikacin and colistin IV.  ID to
   ask micro lab for further sensitivities
     -Tylenol PRN
    Respiratory failure:  Related to pneumonia and prolonged critical
   illness.  Oxygenating well.
     -PSV trial today
     -Continue inhalers.
    CKD:  GRF at baseline for now
    Rest of plan per resident note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-12**] 09:06 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondiparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2169-01-14 08:15:00 Physician Resident Progress Note
Chief Complaint: Fever
   Resp failure
   24 Hour Events:
   -- little hypotensive overnight when sleeping; save IVF boluses
   -- fam mtg with daughter and later wife (daughter's step-mother);
   agreed to giving "best shot" at current PNA, then [**Hospital 3839**] hospice
   -- couldn't get more records from OSH than what ID had gotten (see
   addendum to their note from [**1-12**])
   -- Febrile to 101.9 at Midnight
   Patient unable to provide history: cannot understand speech
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2169-1-11**] 07:11 PM
   Meropenem - [**2169-1-12**] 04:14 PM
   Amikacin - [**2169-1-13**] 01:21 PM
   Vancomycin - [**2169-1-13**] 08:18 PM
   Colistin - [**2169-1-13**] 08:18 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-14**] 01:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-14**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.2
C (99
   HR: 83 (81 - 112) bpm
   BP: 89/51(58) {78/39(48) - 136/448(76)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  4,070 mL
                                                                  1,909 mL
   PO:
   TF:
                                                                  1,785 mL
                                                                    608 mL
   IVF:
                                                                  1,440 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    398 mL
   Urine:
                                                                  2,020 mL
                                                                    398 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,050 mL
                                                                  1,511 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 50
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Wheezes : expiratory, Diminished: bibasilarly,
   Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   132 K/uL
   7.4 g/dL
   117 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   105 mEq/L
   142 mEq/L
   22.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
   WBC
   7.3
   8.2
   6.6
   Hct
   25.3
   25.0
   22.2
   Plt
   150
   167
   132
   Cr
   1.1
   1.1
   1.0
   TCO2
   34
   Glucose
   81
   67
   117
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR
   Microbiology: [**2169-1-11**] -
   Sputum: GNRs
   BAL: Acinetobacter, [**Last Name (un) 46**] to Tobramycin
   Blood: NGTD
   Midline tip: No growth
   Urine: yeast (final)
   [**2169-1-13**]
   Blood x 1 - NGTD
   Outside data:
   -- Sputum [**12-20**]: ESBL Klebsiella - sensitive to imipenem, tetracycline,
   cefotetan, cefoxitin
   -- Sputum [**1-4**]: Acinetobacter - sensitive only to Amikacin
   -- Sputum [**2169-1-8**]: pseudomonas (light growth)
   -- Blood [**2169-1-10**]: NGTD
   -- Urine [**2169-1-8**]: No growth (final)
   -- Blood (2 sets) [**2169-1-8**]: NGTD
   -- Cdiff [**1-4**]: Negative
   -- Blood 12/28: No growth (final)
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress.
   # Fever.  Most likely due to pneumonia, given result of pus in LLL on
   bronchoscopy.
   - other sources (picc line, biliary tree, urine -- no evidence
   infection on lab/micro data)
   - started treatment for multi-drug resistent acinetobacter with
   amikacin/IV colistin [**2169-1-12**]
   - Stop Vanco given no culture data positive for gram positive organisms
   - f/u cultures here
 BAL growing acinetobacter, different from that
   which grew [**1-4**] at Heb Reb (more sensitive)
   - no change in ABX per ID
   - f/u [**Hospital 858**] Rehab culture data daily , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - ID input appreciated
   # Respiratory failure.  Unclear the clincal senario which resulted in
   his being back on ventilator.  Per notes, pt with elev CO2 and resp
   distress.
   - ABG indicates good ventilation
   - appears uncomfortable with high RR
 started Ativan on [**2169-1-13**] -  1mg
   IV Q4H PRN anxiety
   - trial of PS, wean as tolerated (consider SBT)
   - f/u cultures (BAL) as well as Heb Reb cultures
   - antibiotics as above
   # Metabolic alkylosis: Etiology unclear.  Could be contraction due to
   hypovolemia. Improving.
   - monitor
   # Hypotension: In ED and again overnight [**2169-1-14**].  Responded to IVF
   bolus.
   - if hypotensive again, will bolus to CVP 8-12 and then start pressor
   # DM2: continue Glargine and ISS.  FS QID
   # HTN: Hold antihypertensives while BP borderline
   # Reactive airway disease
   - on ventilatory support
   - continue nebs
   # Hypothyroidism: continue synthroid
   # CRF: Cr at baseline.  Renally dose meds.
   - monitor closely while on Amikacin, Colistin
   # Anemia: Chronic per records.  Hct drifting down
   - monitor daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Parkinson's disease: Continue Sinemet, Ropinirole
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   # FEN: Tube feeds per nutrition
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-14**] 12:34 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondaparinox (h/o HIT))
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR ; Family considering hospice
   Disposition:  ICU

2169-01-15 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BAL growing acinetobacter which is sensitive to tobramycin (although
   it was resistent at [**Hospital **] Rehab), ID did not recommend changing ABX
   - stopped vanco as no gram postive organisms being cultured
   - spoke to PCP (Dr. [**Last Name (STitle) 2576**], home ph [**Telephone/Fax (1) 3957**]) who recommended
   Artain for tremor (an anticholinergic); I spoke to neuro who did not
   recommend this as it can make delirium worse and tremors often get
   worse with acute illness
   - spiked temp to 102 - pancultured
   - tolerated PS for awhile (6pm-10pm), but then became subjectively SOB,
   tachycardic--> back on AC
   This AM, hypotensive to 80/40, receiving 1L NS bolus
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-1-12**] 04:14 PM
   Vancomycin - [**2169-1-14**] 09:32 AM
   Colistin - [**2169-1-14**] 08:08 PM
   Amikacin - [**2169-1-15**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-15**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-15**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.5
C (101.3
   HR: 92 (84 - 115) bpm
   BP: 77/35(45) {77/12(32) - 166/87(100)} mmHg
   RR: 19 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 14 (6 - 17)mmHg
   Total In:
                                                                  3,771 mL
                                                                  2,220 mL
   PO:
   TF:
                                                                  1,801 mL
                                                                    591 mL
   IVF:
                                                                  1,640 mL
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                  1,628 mL
                                                                    740 mL
   Urine:
                                                                  1,628 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,143 mL
                                                                  1,480 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 422 (284 - 477) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 63
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 12.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   7.1 g/dL
   87 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.6 mEq/L
   32 mg/dL
   106 mEq/L
   145 mEq/L
   21.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   Hct
   25.3
   25.0
   22.2
   21.2
   Plt
   150
   167
   132
   167
   Cr
   1.1
   1.1
   1.0
   1.2
   TCO2
   34
   Glucose
   81
   67
   117
   87
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.9 mg/dL, Mg++:1.5
   mg/dL, PO4:3.9 mg/dL
   MICRO:
   [**1-15**] sputum
GRAM STAIN (Final [**2169-1-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   [**1-15**] urine: PND
   [**1-15**] BCx: PND
   [**1-13**] BCx: NGTD
   [**1-11**] Cath tip: no growth
   [**1-11**] BAL: acenitobacter: sensitive to tobra, bactrim
   [**1-11**] sputum: GNRs
   [**1-11**] UCx: little yeast
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress.
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data)
   - continue treatment for multi-drug resistent acinetobacter with
   amikacin/IV colistin [**2169-1-12**]
   - no change in ABX per ID, f/u recs
   - f/u cultures here
 BAL growing acinetobacter, different from that
   which grew [**1-4**] at Heb Reb (more sensitive)
   - f/u [**Hospital 858**] Rehab culture data daily , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - f/u amikacin peak and trough
   # Respiratory failure.  Unclear the clincal senario which resulted in
   his being back on ventilator.  Per notes, pt with elev CO2 and resp
   distress.
   - ABG indicates good ventilation
   - appears uncomfortable with high RR
 started Ativan on [**2169-1-13**] -  1mg
   IV Q4H PRN anxiety
   - trial of PS, wean as tolerated (consider SBT)
   - f/u cultures (BAL) as well as Heb Reb cultures
   - antibiotics as above
   # Metabolic alkylosis: Etiology unclear.  Could be contraction due to
   hypovolemia. Improving.
   - monitor
   # Hypotension: In ED and again overnight [**2169-1-14**].  Responded to IVF
   bolus.
   - if hypotensive again, will bolus to CVP 8-12 and then start pressor
   if c/w family goals
   # DM2: continue Glargine and ISS.  FS QID
   # HTN: Hold antihypertensives while BP borderline
   # Reactive airway disease
   - on ventilatory support
   - continue nebs
   # Hypothyroidism: continue synthroid
   # CRF: Cr at baseline.  Renally dose meds.
   - monitor closely while on Amikacin, Colistin
   # Anemia: Chronic per records.  Hct drifting down
   - monitor daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-15**] 02:46 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2169-01-16 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24h events:
   -- transfused 1 unit for HCT 21
   -- remained febrile on amikacin and colistin
   -- intermittently hypotensive during the day, responded to IVF boluses
   -- checked bedside u/s for parapneumonic effusion/empyema - none
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-14**] 09:32 AM
   Amikacin - [**2169-1-15**] 10:00 PM
   Colistin - [**2169-1-15**] 11:01 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-1-15**] 08:31 AM
   Fondaparinux - [**2169-1-15**] 12:26 PM
   Lorazepam (Ativan) - [**2169-1-16**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.1
C (100.6
   HR: 102 (84 - 115) bpm
   BP: 118/65(78) {73/45(53) - 118/69(89)} mmHg
   RR: 27 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 20 (10 - 29)mmHg
   Total In:
                                                                  5,585 mL
                                                                    904 mL
   PO:
   TF:
                                                                  1,800 mL
                                                                    540 mL
   IVF:
                                                                  2,749 mL
                                                                    144 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  2,665 mL
                                                                    910 mL
   Urine:
                                                                  2,665 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,920 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 86
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Wheezes : expiratory, Diminished: bibasilarly,
   Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   158 K/uL
   7.6 g/dL
   97 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   29 mg/dL
   108 mEq/L
   144 mEq/L
   22.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   Plt
   150
   167
   132
   167
   158
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.6 mg/dL, Mg++:1.6
   mg/dL, PO4:4.3 mg/dL
   Imaging: no film today
   CXR [**1-15**]
   Compared with [**2169-1-14**] and allowing for technical differences, I doubt
   significant interval change. Tracheostomy tube present. Right IJ
   central line tip overlying upper right atrium. The cardiomediastinal
   silhouette is enlarged but stable. Increased retrocardiac density is
   stable. Calcified pleural plaques again noted. Detail obscured by
   respiratory motion. Possible mild vascular plethora.
   Microbiology: [**1-15**] sputum: 2+ GNRs, cx PND
   [**1-15**] UCx: PND
   [**1-15**] BCx: PND
   [**1-11**] catheter tip: no growth
   [**1-11**] BAL and sputum:
      - acenitobacter s to tobra, bactrim
      - pseudomonas s to tobra
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress.
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data)
   - continue treatment for multi-drug resistent acinetobacter with
   amikacin/IV colistin [**2169-1-12**]
   - no change in ABX per ID, f/u recs
   - f/u cultures here
 BAL growing acinetobacter, different from that
   which grew [**1-4**] at Heb Reb (more sensitive)
   - f/u [**Hospital 858**] Rehab culture data daily , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - f/u amikacin peak and trough
   # Respiratory failure.  Unclear the clincal senario which resulted in
   his being back on ventilator.  Per notes, pt with elev CO2 and resp
   distress.
   - ABG indicates good ventilation
   - appears uncomfortable with high RR
 started Ativan on [**2169-1-13**] -  1mg
   IV Q4H PRN anxiety
   - trial of PS, wean as tolerated (consider SBT)
   - f/u cultures (BAL) as well as Heb Reb cultures
   - antibiotics as above
   # Metabolic alkylosis: Etiology unclear.  Could be contraction due to
   hypovolemia. Improving.
   - monitor
   # Hypotension: In ED and again overnight [**2169-1-14**].  Responded to IVF
   bolus.
   - if hypotensive again, will bolus to CVP 8-12 and then start pressor
   if c/w family goals
   # DM2: continue Glargine and ISS.  FS QID
   # HTN: Hold antihypertensives while BP borderline
   # Reactive airway disease
   - on ventilatory support
   - continue nebs
   # Hypothyroidism: continue synthroid
   # CRF: Cr at baseline.  Renally dose meds.
   - monitor closely while on Amikacin, Colistin
   # Anemia: Chronic per records.  Hct drifting down
   - monitor daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-16**] 04:17 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-16 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained febrile overnight.
   Some mild fluid responsive hypotenstion yesterday.
   Bedside ultrasound did not reveal pleural effuions.
   History obtained from Medical records
   Patient unable to provide history: Tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-14**] 09:32 AM
   Amikacin - [**2169-1-15**] 10:00 PM
   Colistin - [**2169-1-15**] 11:01 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2169-1-15**] 12:26 PM
   Lorazepam (Ativan) - [**2169-1-16**] 08:27 AM
   Other medications:
   prevacid, albuterol/Atrovent, Calc Carbonate, Levodopa, ASA, Colace,
   Zocor, Ropinirole, Levothyroxine, RISS, Vit D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-16**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.2
C (100.8
   HR: 86 (84 - 115) bpm
   BP: 100/57(58) {73/45(53) - 118/69(89)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 15 (10 - 29)mmHg
   Total In:
                                                                  5,585 mL
                                                                  1,345 mL
   PO:
   TF:
                                                                  1,800 mL
                                                                    746 mL
   IVF:
                                                                  2,749 mL
                                                                    199 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  2,665 mL
                                                                  1,240 mL
   Urine:
                                                                  2,665 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,920 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 86
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 14.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese, G tube
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   158 K/uL
   97 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   29 mg/dL
   108 mEq/L
   144 mEq/L
   22.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   Plt
   150
   167
   132
   167
   158
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   Other labs: PT / PTT / INR:15.3/45.8/1.3, Ca++:8.6 mg/dL, Mg++:1.6
   mg/dL, PO4:4.3 mg/dL
   Microbiology: Sputum Cx:  Acinetobacter and PSA
   BAL: Acinetobacter and PSA
   Blood Cx:  NGTD
   UCx: NGTD
   Assessment and Plan
   1) Respiratory Failure:  Secondary to pneumonia on top of multiple
   recent critical illnesses.
     -Will discuss with ID new dosing for colistin/amikacin given new
   acute renal failure.
     -PSV trial today
   2) Fever:  Pneumonia vs alternative infection vs drug fever.  No
   evidence of effusions on U/s yesterday
     -Check Diff on CBC for eos
     -Check LFTs
     -Pneumonia treatment as above.
     -If fevers persist and no clear source, will change CVL.
   3) CKD:  Creatinie up today. Most likely etiologies amikacin/colistin
   vs hypotension
     -Avoid hypotension
     -Adjusting doses of antibiotics
     -Renally dose meds
     -Check urine eos.
   4) Anemia:
   No clinical evidence of blood loss.
   Guiac stools
   Transfuse PRBC for Hct 21.
   5) GOC:  Will continue ongoing discussions with wife, daughter
   regarding long-term plans
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-16**] 04:17 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (fondaprinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-01-17 08:17:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   Pna
   24 Hour Events:
   -- spiked temp again 101.6; didn't reculture (has been pancultured w/
   NGTD)
   -- Had a trial of PS earlier in day when he became tachypneic; tried
   again later in day but he was then too sedate
   -- Hypotensive with SBP ~70 at MN; gave 1L fluid bolus
   -- had renal US but read pending; urine eos positive
   -- had family mtg with daughters & PCP ([**Doctor Last Name 2576**])
   -- palliative care saw pt's wife; also placed SW consult (don't think
   they have seen him yet)
   -- foley changed for yeast
   History obtained from Patient
   Allergies:
   History obtained from PatientTagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-14**] 09:32 AM
   Amikacin - [**2169-1-15**] 10:00 PM
   Colistin - [**2169-1-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-16**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-17**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.5
C (101.3
   HR: 99 (77 - 106) bpm
   BP: 104/60(69) {73/40(48) - 122/97(107)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,405 mL
                                                                  2,109 mL
   PO:
             TF:
                                                                  1,810 mL
                                                                    608 mL
   IVF:
                                                                    545 mL
                                                                  1,281 mL
   Blood products:
   Total out:
                                                                  2,216 mL
                                                                    860 mL
   Urine:
                                                                  2,216 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,189 mL
                                                                  1,250 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 601 (219 - 608) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 128
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 13.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), Distant HS
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: At bases bilaterally, Rhonchorous: bilaterally)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   177 K/uL
   7.5 g/dL
   91 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.1 mEq/L
   30 mg/dL
   106 mEq/L
   144 mEq/L
   22.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   Plt
   150
   167
   132
   167
   158
   177
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   Other labs: PT / PTT / INR:16.3/46.4/1.5, ALT / AST:[**12-25**], Alk Phos / T
   Bili:63/0.3, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.9 g/dL, LDH:229 IU/L, Ca++:8.9 mg/dL, Mg++:1.3
   mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**1-15**]:
   Compared with [**2169-1-14**] and allowing for technical differences, I doubt
   significant interval change. Tracheostomy tube present. Right IJ
   central
   line tip overlying upper right atrium. The cardiomediastinal silhouette
   is enlarged but stable. Increased retrocardiac density is stable.
   Calcified
   pleural plaques again noted. Detail obscured by respiratory motion.
   Possible
   mild vascular plethora.
   Renal U/S [**1-16**]: Pending
   Microbiology: Sputum [**1-15**]: GNRs
   Sputum/BAL [**1-11**]: Pseudomonas and Acinetobacter
   Urine [**1-15**]: yeast
   Blood: NGTD
   Sputum [**1-10**]: Acinetobacter, [**Last Name (un) 46**] to Amikacin/Colistin, ESBL Kleb, [**Last Name (un) 46**]
   to Amikacin/Tobra, Pseudomonas, [**Last Name (un) 46**] to Amikacin
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
   # Fever.  Continues to spike.  Could be due to PNA (see plan below) vs
   drug fever (+ urinary and peripheral EOS)
   - no abx changes per ID; we are limited in our choices given the
   resistant organisms
   - monitor
   - CIS
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with amikacin/IV colistin ([**2169-1-12**] - )
   - changed amikacin dosing interval due to renal function
   - will ask our lab to run the BAL specimen for amikacin sensitivity
   - no changes in ABX per ID, f/u recs
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - f/u amikacin peak and trough (send out)
   # Respiratory failure: On AC/vol control ventilation
   - VBG on [**1-15**] indicated good ventilation, correlated well with prior
   ABGs
   - started Ativan on [**2169-1-13**] -  1mg IV Q4H PRN for anxiety and comfort,
   although family requests limiting it
   - trial of PS daily (failed [**2169-1-17**])
   - antibiotics as above for PNA
   # Hypotension: Intermittent.  Responds to IVF bolus.
   - bolus to CVP 8-12 prn hypotension, and then start pressor if c/w
   family goals
   # ARF
acute on chronic failure,with baseline creatinine 1.3. Etiology
   is likely due to drug toxicity from antiobiotics - urine eos +
   -- f/u renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin; to consider changing colistin to
   inhaled per ID
   -- continue hydration, TFs
   -- need to discuss goals of care with family; ie dialysis etc
   # Anemia: Chronic per records.  Hct didn
t respond appropriately to 1
   unit of blood on [**1-15**]. Likely ACI.  Has been stable
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # DM2:
   -- continue Glargine and ISS.  FS QID
   # HTN:
   -- Hold antihypertensives while BP borderline
   # Hypothyroidism:
   -- continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-17**] 06:45 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondaparinox)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-17 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tachypneic on PSV trial yesterday
   Renal U/S down
   Fluid responsive hypotension overnight
   Tmax of 101.6
   Foley changed
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-15**] 10:00 PM
   Colistin - [**2169-1-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lansoprazole, albuterol/atrovent, ASA, zocor, ropinirole, synthroid,
   RISS, levodopa, Vit D, peridex, fondaparinux
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-17**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.8
   HR: 90 (77 - 106) bpm
   BP: 95/57(65) {73/40(48) - 122/82,107(107)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,405 mL
                                                                  2,515 mL
   PO:
             TF:
                                                                  1,810 mL
                                                                    808 mL
   IVF:
                                                                    545 mL
                                                                  1,408 mL
   Blood products:
   Total out:
                                                                  2,216 mL
                                                                  1,400 mL
   Urine:
                                                                  2,216 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,189 mL
                                                                  1,115 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 601 (219 - 608) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 128
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 13.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Diaphoretic,
   Tremulous
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Course ventilated BS.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   177 K/uL
   91 mg/dL
   1.8 mg/dL
   31 mEq/L
   3.1 mEq/L
   30 mg/dL
   106 mEq/L
   144 mEq/L
   22.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   Plt
   150
   167
   132
   167
   158
   177
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   Other labs: PT / PTT / INR:16.3/46.4/1.5, ALT / AST:[**12-25**], Alk Phos / T
   Bili:63/0.3, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.9 g/dL, LDH:229 IU/L, Ca++:8.9 mg/dL, Mg++:1.3
   mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: Trach/CVC in place
   Microbiology: Sputum Cx:  Acinetobacter, PSA
   Assessment and Plan
   1) Respiratory Failure:  Secondary to pneumonia on top of multiple
   recent critical illnesses.  Failed PSV trial this morning.
     -Appreciate ID input regarding new amikacin dose.
   2) Fever:  Pneumonia vs alternative infection vs drug fever.  Mild
   peripheral eosinophilia could argue for drug fever. LFTs nml.
     -Pneumonia treatment as above.
   3) CKD:  Creatinine up today. Most likely etiologies amikacin/colistin
   vs hypotension.  Urine eos positive.  Renal U/S without clear
   obstruction.
     -Avoid hypotension
     -Adjusting doses of antibiotics
     -Renally dose meds
   4.) Hypotension:  Intermittent, fluid responsive
     -IVF bolus as required
     -Check CVP
   5) Anemia:  No clinical evidence of blood loss.
     -Transfuse PRBC for Hct 21.
   6) GOC:  Appreciate Palliative care input.  After multiple discussions,
   plan at present is to attempt to aggressively try to treat PNA with
   goal of getting him back to rehab with ultimate goal of vent weaning
   and going home (likely to pass away). If/when he makes it to rehab, the
   family would prefer to not rehospitalize him if he worsens.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-17**] 06:45 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-01-18 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - asked micro lab to run sputum for amikacin sensitivity
   - changed amikacin to Q36H given renal fx
   - BP down to 80s/40s -- ordered 1 unit PRBCs
    -  FEVER - 102.3
F - [**2169-1-17**] 10:00 PM (had been pan cultured for
   fever 101 in the afternoon already)
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-17**] 04:00 PM
   Colistin - [**2169-1-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-18**] 02:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-18**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100.1
   HR: 86 (83 - 112) bpm
   BP: 90/49(58) {74/30(40) - 128/82,107(158)} mmHg
   RR: 19 (13 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  4,667 mL
                                                                    833 mL
   PO:
   TF:
                                                                  1,803 mL
                                                                    566 mL
   IVF:
                                                                  1,890 mL
                                                                    176 mL
   Blood products:
                                                                    235 mL
                                                                     41 mL
   Total out:
                                                                  3,000 mL
                                                                    950 mL
   Urine:
                                                                  3,000 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 72
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: bases, Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   193 K/uL
   8.2 g/dL
   110 mg/dL
   2.1 mg/dL
   31 mEq/L
   3.5 mEq/L
   31 mg/dL
   105 mEq/L
   145 mEq/L
   24.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   Plt
   150
   167
   132
   167
   158
   177
   193
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   Other labs: PT / PTT / INR:16.3/46.4/1.5, ALT / AST:[**12-25**], Alk Phos / T
   Bili:63/0.3, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.9 g/dL, LDH:229 IU/L, Ca++:9.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Imaging: CXR
   Microbiology: Pancultured [**1-17**]
   blood, urine - ngtd
   sputum gram stain GNRs
   sputum [**1-15**]: pseudomonas
   sputum [**1-11**]: acinetobacter, pseudomonas
   BAL [**1-11**]: acinetobacter, pseudomonas
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
   # Fever.  Continues to spike.  102 on [**1-18**].  Could be due to PNA (see
   plan below) vs drug fever (+ urinary and peripheral EOS)
   - add Vanco for gram + coverage
   - monitor for line infections (culture data)
   - cont colistin but change to Inhaled form given renal fx/amikacin; we
   are limited in our choices given the resistant organisms
   - f/u sensitivities (asked micro to run amikacin)
   - monitor
   - CIS
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas ([**2169-1-12**] - )
   - change IV colistin to Inhaled colistin
   - changed amikacin dosing interval due to renal function
   - our lab will run the BAL specimen for amikacin sensitivity
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - f/u amikacin peak and trough (send out)
   # Respiratory failure: On AC/vol control ventilation
   - VBG on [**1-15**] indicated good ventilation, correlated well with prior
   ABGs
   - started Ativan on [**2169-1-13**] -  1mg IV Q4H PRN for anxiety and comfort,
   although family requests limiting it
   - trial of PS daily  - doing OK for now
   - antibiotics as above for PNA
   # Hypotension: Intermittent.  Responds to IVF bolus.  [**1-18**] - got 1 unit
   PRBCs, CVP was 10
   - bolus to CVP 8-12 prn hypotension, and then start pressor if c/w
   family goals
   # ARF  acute on chronic failure,with baseline creatinine 1.3. Etiology
   is likely due to drug toxicity from antiobiotics - urine eos +
   -- f/u renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin;  changed colistin to inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- need to discuss goals of care with family; ie dialysis etc
   # Anemia: Chronic per records but below baseline.  Stable.    Got 1
   unit PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # DM2:
   -- continue Glargine and ISS.  FS QID
   # HTN:
   -- Hold antihypertensives while BP borderline
   # Hypothyroidism:
   -- continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT: Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-17**] 08:03 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (fondaparinox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-18 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Again febrile yesterday.  Mild hypotension again overnight, improved
   with blood transfusion.
   Tachypneic to high 30's this AM during PSV trial (15/5)
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-17**] 04:00 PM
   Colistin - [**2169-1-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-18**] 02:27 AM
   Fentanyl - [**2169-1-18**] 09:46 AM
   Other medications:
   lansoprazole, albuterol/atrovent, calcium carb, perides, [**Last Name (LF) 4044**], [**First Name3 (LF) 119**],
   colace, ropinirole, Levothyroxine, RISS, Vit D, Fondaparinux
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-18**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.1
   HR: 107 (83 - 112) bpm
   BP: 107/73(82) {74/30(40) - 128/92(158)} mmHg
   RR: 29 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 6 (6 - 12)mmHg
   Total In:
                                                                  4,667 mL
                                                                  1,105 mL
   PO:
   TF:
                                                                  1,803 mL
                                                                    704 mL
   IVF:
                                                                  1,890 mL
                                                                    199 mL
   Blood products:
                                                                    235 mL
                                                                     41 mL
   Total out:
                                                                  3,000 mL
                                                                  1,395 mL
   Urine:
                                                                  3,000 mL
                                                                  1,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 72
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bibasilar,
   Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   193 K/uL
   110 mg/dL
   2.1 mg/dL
   31 mEq/L
   3.5 mEq/L
   31 mg/dL
   105 mEq/L
   145 mEq/L
   24.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   Plt
   150
   167
   132
   167
   158
   177
   193
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   Other labs: PT / PTT / INR:16.3/46.4/1.5, ALT / AST:[**12-25**], Alk Phos / T
   Bili:63/0.3, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.9 g/dL, LDH:229 IU/L, Ca++:9.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Imaging: No new imaging
   Microbiology: Sputum Cx:  Pan resistant PSA
   Assessment and Plan
   1) Respiratory Failure:  Secondary to pneumonia on top of multiple
   recent critical illnesses.  Failed PSV trial this morning.
     -Aim for volume status/CVP of 8 given rising Cr, no plans for
   diuresis at present
     -Continue PSV challenges
    2) Fever:  Pneumonia vs alternative infection vs drug fever.  Mild
   peripheral eosinophilia could argue for drug fever. LFTs nml.
     -Add empiric vancomycin for now given CVC.  If positive blood
   cultures will pull, but plan is to leave for now given low suspicion of
   line infection.
     -Given rising creatinine, ID recommending to change IV colistin to
   nebs.
    3) CKD:  Creatinine up again today. Most likely etiologies
   amikacin/colistin vs hypotension.  Urine eos positive.  Renal U/S
   without clear obstruction.
     -Avoid hypotension
     -Adjusting doses of antibiotics
     -Renally dose meds
    4.) Hypotension:  Intermittent, fluid responsive
     -IVF bolus as required
     -CVP goal [**8-16**]
    5) Anemia:  No clinical evidence of blood loss.  Bumped appropriately
   to 1 unit PRBC overnight.
   6) GOC:  Appreciate Palliative care input.  After multiple discussions,
   plan at present is to attempt to aggressively try to treat PNA with
   goal of getting him back to rehab with ultimate goal of vent weaning
   and going home (likely to pass away). If/when he makes it to rehab, the
   family would prefer to not rehospitalize him if he worsens.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-01-19 07:36:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   Pneumonia
   Fever
   24 Hour Events:
   - still febrile (101.4) on vanco/colisitin inhaled/amikacin -
   peripheral and CVL cultures sent
   - one of his pseudomonas species from [**1-15**] is R to amikacin but S to
   tobra, would d/w ID today
   - trial of PSV unsuccessful
   History obtained from Patient
   Allergies:
   History obtained from PatientTagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-17**] 04:00 PM
   Colistin - [**2169-1-18**] 02:00 AM
   Vancomycin - [**2169-1-18**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-1-19**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2169-1-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.9
C (98.5
   HR: 104 (88 - 122) bpm
   BP: 118/60(45) {72/22(37) - 133/85(93)} mmHg
   RR: 23 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 7 (2 - 14)mmHg
   Total In:
                                                                  2,766 mL
                                                                    643 mL
   PO:
   TF:
                                                                  1,818 mL
                                                                    543 mL
   IVF:
                                                                    586 mL
   Blood products:
                                                                     41 mL
   Total out:
                                                                  3,214 mL
                                                                    980 mL
   Urine:
                                                                  3,214 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 504 (456 - 504) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 37.9 cmH2O/mL
   SpO2: 96%
   ABG: ///33/
   Ve: 20 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: At bases, Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   182 K/uL
   7.6 g/dL
   121 mg/dL
   2.4 mg/dL
   33 mEq/L
   3.4 mEq/L
   34 mg/dL
   106 mEq/L
   146 mEq/L
   22.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.3 mg/dL, Mg++:1.6
   mg/dL, PO4:4.6 mg/dL
   Imaging: CXR [**1-17**]:
   Left basilar and retrocardiac opacity, slightly improved. No other
   change.
   Microbiology: Sputum [**1-15**]: Pseudomonas resistent to Amikacin and
   everything except Tobra
   Sputum [**1-17**]: pseudomonas, sensitivities pending
   Blood: NGTD
   Urine [**1-15**]: yeast, foley changed
   BAL:
   - acinetobacter
   - pseudomonas (sensitivie to amikacin)
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
   # Fever.  Continues to spike.  Could be due to PNA (see plan below) vs
   drug fever (+ urinary and peripheral EOS) vs alternative source
   (line).  Less likely due to the line as it was new upon admission and
   he never defervesced.
   - added  Vanco [**1-18**]  for gram + coverage
   - cultured from the line [**1-18**]; f/u all other cultures
   - remove and replace CVL
   - ABX: we are limited in our choices given the resistant organisms - on
   Colistin IH/Amikacin since [**2169-1-12**], and Vanco since [**1-18**]
   - check vanco and amikacin levels today
   - CIS
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with Amikacin/Colistin ([**2169-1-12**] - ); vanco([**1-18**] -)
   - f/u micor and sensitivities - some of the pseudomonas spp are
   resistent to amikacin but sensitive to tobramycin- will discuss with ID
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - f/u amikacin level (send out)
   # Respiratory failure: On AC/vol control ventilation
   - VBG on [**1-15**] indicated good ventilation, correlated well with prior
   ABGs
   - started Ativan on [**2169-1-13**] -  1mg IV Q4H PRN for anxiety and comfort,
   although family requests limiting it
   - trial of PS daily
 did not tolerate on [**1-19**] (tachypneic)
   - antibiotics as above for PNA
   # Hypotension: Intermittent.  Responds to IVF bolus.  [**1-18**] - got 1 unit
   PRBCs, CVP was 10
   - bolus to CVP 8-12 prn hypotension, and then start pressor if c/w
   family goals
   # ARF  acute on chronic failure,with baseline creatinine 1.3. Etiology
   is likely due to drug toxicity from antiobiotics - urine eos +
   -- Cr continues to rise
   -- f/u renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin;  changed colistin to inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- need to discuss goals of care with family; ie dialysis etc
   # Anemia: Chronic per records but below baseline.  Stable.    Got 1
   unit PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # DM2:
   -- continue Glargine and ISS.  FS QID
   # HTN:
   -- Hold antihypertensives while BP borderline
   # Hypothyroidism:
   -- continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT:  Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-18**] 10:22 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (Fondaparinox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:  Need family mtg
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-19 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile to 101.4 overnight
   IV colistin changed to colistin nebs
   Failed PSV trial yesterday afternoon due to tachypnea
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-17**] 04:00 PM
   Colistin - [**2169-1-18**] 02:00 AM
   Vancomycin - [**2169-1-18**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-1-19**] 02:31 AM
   Lorazepam (Ativan) - [**2169-1-19**] 09:21 AM
   Other medications:
   Lansoprazole, atrovent, peridex, sinemet, asa, zocor, ropinirole, RISS,
   levothyroxine, fondaparinux, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-19**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 104 (88 - 122) bpm
   BP: 100/57(65) {72/22(37) - 133/85(93)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 7 (2 - 14)mmHg
   Total In:
                                                                  2,766 mL
                                                                  1,108 mL
   PO:
   TF:
                                                                  1,818 mL
                                                                    763 mL
   IVF:
                                                                    586 mL
                                                                     21 mL
   Blood products:
                                                                     41 mL
   Total out:
                                                                  3,214 mL
                                                                  1,365 mL
   Urine:
                                                                  3,214 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 549 (456 - 549) mL
   PS : 20 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.1 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Tremulous
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), distant heart tones
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bibasilar,
   Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   182 K/uL
   121 mg/dL
   2.4 mg/dL
   33 mEq/L
   3.4 mEq/L
   34 mg/dL
   106 mEq/L
   146 mEq/L
   22.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.3 mg/dL, Mg++:1.6
   mg/dL, PO4:4.6 mg/dL
   Microbiology: Sputum Cx:  PSA R to amikacin, S to tobramycin
   BCx: NGTD
   UCx:  yeast
   Assessment and Plan
   1) Respiratory Failure:  Secondary to pneumonia on top of multiple
   recent critical illnesses.  Failed PSV trial again this morning.
   Difficult to optimize volume status given developing renal failure
   although he appears to be auto-diuresing today in the setting of
   non-oliguric renal failure
     -Holding on diuresis for now
     -Continue PSV challenges
    2) Fever:  Pneumonia vs alternative infection vs drug fever.  Mild
   peripheral eosinophilia could argue for drug fever. LFTs nml.
     -Add empiric vancomycin for now given CVC.  Will change CVC today.
     -Given new resistance pattern of PSA, will discuss with ID regarding
   ?changing amikacin to tobramcyin.
    3) CKD:  Creatinine up again today. Most likely etiologies
   amikacin/colistin vs hypotension.  Urine eos positive.  Renal U/S
   without clear obstruction.
     -Avoid hypotension
     -Adjusting doses of antibiotics
     -Renally dose meds
    4.) Hypotension:  Intermittent, fluid responsive
     -IVF bolus as required
     -CVP goal [**8-16**]
    5) Anemia:  No clinical evidence of blood loss.
     -Transfusion goal >21%.
    6) GOC:  Appreciate Palliative care input.  After multiple
   discussions, plan at present is to attempt to aggressively try to treat
   PNA with goal of getting him back to rehab with ultimate goal of vent
   weaning and going home (likely to pass away). If/when he makes it to
   rehab, the family would prefer to not rehospitalize him if he worsens.
   This may need to be readdressed soon as he does not appear to be
   improving.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-18**] 10:22 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-1-11**] 04:39 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-01-20 08:07:00 Physician Resident Progress Note
Chief Complaint: PNA
   RESP FAILURE
   RENAL FAILURE
   24 Hour Events:
   -- had fam mtg w/ PCP, [**Name10 (NameIs) 4092**] care, nurse [**First Name8 (NamePattern2) **] [**Last Name (Titles) 815**]; everyone agreed
   not to progress to HD, but fam feels pt is telling them he still want
   to give it a fight (i.e., continuing to treat PNA)
   -- CVL pulled; sent for culture; PIV placed
   -- pm vanco level elevated at 24; did not give dose.  Pharm want to
   next check on Sat with am labs
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-18**] 02:00 PM
   Amikacin - [**2169-1-19**] 04:00 PM
   Colistin - [**2169-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-20**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-20**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 89 (87 - 120) bpm
   BP: 80/50(54) {80/33(47) - 135/83(106)} mmHg
   RR: 21 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  3,046 mL
                                                                    997 mL
   PO:
   TF:
                                                                  1,806 mL
                                                                    598 mL
   IVF:
                                                                    320 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    265 mL
   Urine:
                                                                  2,355 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    691 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory, Rhonchorous: Left > Right)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   8.5 g/dL
   143 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   37 mg/dL
   106 mEq/L
   146 mEq/L
   25.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   226
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   143
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.8 mg/dL, Mg++:1.9
   mg/dL, PO4:4.6 mg/dL
   Imaging: No new imaging
   Microbiology: No new data
   Sputum [**1-15**]: Pseudomonas resistent to amikacin
   Sputum [**1-11**]: Acinetobacter and Pseudomonas sensitive to amikacin
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
   # Fever.  Continues to spike although low grad.  Could be due to PNA
   (see plan below) vs drug fever (+ urinary and peripheral EOS) vs
   alternative source (line).  Less likely due to the line as it was new
   upon admission and he never defervesced.
   - pulled CVL [**1-19**]
   - added  Vanco [**1-18**]  for gram + coverage
   - f/u cultures, esp blood
   - ABX: we are limited in our choices given the resistant organisms - on
   Colistin IH/Amikacin since [**2169-1-12**], and Vanco since [**1-18**]
   - check vanco level in AM [**1-21**]; amikacin level good
   - CIS
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data.   ID recs appreciated.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with Amikacin/Colistin ([**2169-1-12**] - ); vanco([**1-18**] -)
   - f/u micor and sensitivities - some of the pseudomonas spp are
   resistent to amikacin but sensitive to tobramycin- no ABX change per ID
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - amikacin trough was appropriate
   # Respiratory failure: On AC/vol control ventilation
   - VBG on [**1-15**] indicated good ventilation, correlated well with prior
   ABGs
   - started Ativan on [**2169-1-13**] -  change dose given renal failure - for
   anxiety and comfort, although family requests limiting it
   - trial of PS daily
 did not tolerate on [**1-19**] (tachypneic)
   - antibiotics as above for PNA
   # Hypotension: Intermittent.  Responds to IVF bolus.  [**1-18**] - got 1 unit
   PRBCs
   - bolus to CVP 8-12 prn hypotension, and then start pressor if c/w
   family goals
   # ARF  Creatinine is rising - acute on chronic failure,with baseline
   creatinine 1.3. Etiology is likely due to drug toxicity from
   antiobiotics - urine eos +
   -- Cr continues to rise
   -- f/u renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin; trough was good;  changed colistin to
   inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- Dialysis NOT within patient/family's wishes/goal of care
   # Anemia: Chronic per records but below baseline.  Stable.    Got 1
   unit PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # DM2:
   -- continue Glargine and ISS.  FS but change to [**Hospital1 **]
   # HTN:
   -- Hold antihypertensives while BP borderline
   # Hypothyroidism:
   -- continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT:  Avoid all heparin products
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-20**] 12:55 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-19**] 12:25 PM
   Prophylaxis:
   DVT: (Fondaparinox)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-20 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Central line removed yesterday.
   Failed PSV trial again yesterday.
   History obtained from Medical records
   Patient unable to provide history: tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-18**] 02:00 PM
   Amikacin - [**2169-1-19**] 04:00 PM
   Colistin - [**2169-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-1-20**] 03:00 AM
   Fentanyl - [**2169-1-20**] 10:02 AM
   Other medications:
   Lansoprazole, atrovent/albuterol, peridex, sinemet, ASA, colace, zocor,
   ropinirole, levothyroxine, insulin, Vit D, fondaparinux
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-20**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.5
C (99.5
   HR: 110 (87 - 113) bpm
   BP: 110/65(76) {80/33(47) - 135/83(106)} mmHg
   RR: 23 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  3,046 mL
                                                                  1,400 mL
   PO:
             TF:
                                                                  1,806 mL
                                                                    799 mL
   IVF:
                                                                    320 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    495 mL
   Urine:
                                                                  2,355 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    691 mL
                                                                    905 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   226 K/uL
   143 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   37 mg/dL
   106 mEq/L
   146 mEq/L
   25.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   226
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   143
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.8 mg/dL, Mg++:1.9
   mg/dL, PO4:4.6 mg/dL
   Imaging: None new
   Microbiology: Refer to previous notes
   Assessment and Plan
   1) Respiratory Failure:  Secondary to pneumonia on top of multiple
   recent critical illnesses.  Failed PSV trial again this morning.
   Difficult to optimize volume status given developing renal failure
   although he appears to be auto-diuresing today in the setting of
   non-oliguric renal failure
     -Holding on diuresis for now, will shoot for even fluid balance given
   progressive renal failure
     -Continue PSV challenges
    2) Fever:  Pneumonia vs alternative infection vs drug fever. CVC now
   removed.  At this point, this seems most likely related to
   un([**Doctor Last Name **])treated PNA
      -Monitor fever curve with CVC out and on PNA abx.
      -Per ID, they would not recommend changing amikacin to tobramycin
    3) CKD:  Creatinine up again today. Most likely etiologies
   amikacin/colistin vs hypotension.  Urine eos positive.  Renal U/S
   without clear obstruction.
     -Avoid hypotension
     -Adjusting doses of antibiotics
     -Renally dose meds
    4.) Hypotension:  Intermittent, fluid responsive
      -IVF bolus as required
      -CVP goal [**8-16**]
    5) Anemia:  No clinical evidence of blood loss.
     -Transfusion goal >21%.
    6) GOC:  Appreciate Palliative care input.  Medical team met with
   family again [**1-19**].  They would prefere to keep attempting to treat PNA
   for now, but do not want to consider RRT if renal function
   progressively worsens.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-1-20**] 12:55 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2169-1-19**] 12:25 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-01-21 07:08:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   Resp failure
   24 Hour Events:
   - low grade temps up to 100.4
   - ID recs: check LFTs, CBC w/diff, lactate - ordered with AM labs
   History obtained from Patient
   Allergies:
   History obtained from PatientTagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-18**] 02:00 PM
   Amikacin - [**2169-1-19**] 04:00 PM
   Colistin - [**2169-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-1-20**] 05:06 PM
   Morphine Sulfate - [**2169-1-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-21**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 114 (89 - 123) bpm
   BP: 97/45(64) {78/43(48) - 119/85(91)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  3,103 mL
                                                                    745 mL
   PO:
             TF:
                                                                  1,813 mL
                                                                    499 mL
   IVF:
                                                                    341 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    320 mL
   Urine:
                                                                  1,195 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,908 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   226 K/uL
   8.5 g/dL
   143 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   37 mg/dL
   106 mEq/L
   146 mEq/L
   25.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2169-1-11**]  05:32 PM
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   226
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   TCO2
   34
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   143
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.8 mg/dL, Mg++:1.9
   mg/dL, PO4:4.6 mg/dL
   Imaging: CXR [**1-17**]: Left basilar and retrocardiac opacity, slightly
   improved. No other change.
   Microbiology: No new data
   Cath tip [**1-19**]: No sig growth
   Sputum [**1-17**]: pseudomonas
   Sputum [**1-15**]: pseudomonas pan resistent
   Sputum [**1-11**]: acinetobacter and pseudomonas sensitive to amikacin
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers although low grade.
   # Fever.  Low grade.  Could be due to PNA (see plan below) vs drug
   fever (+ urinary and peripheral EOS) vs alternative source (line).
   - pulled CVL [**1-19**]
   - added  Vanco [**1-18**]  for gram + coverage; can stop today as no sig
   growth from line
   - f/u cultures
   - ABX: we are limited in our choices given the resistant organisms - on
   Colistin IH/Amikacin since [**2169-1-12**], and Vanco since [**1-18**] (will stop
   today)
   - check vanco level in AM [**1-21**]; amikacin level good
   - CIS
   # Pneumonia - pus in LLL on bronchoscopy
 no evidence for other
   sources on lab/micro data.   ID recs appreciated.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with Amikacin/Colistin ([**2169-1-12**] - )
   - f/u micor and sensitivities - some of the pseudomonas spp are
   resistent to amikacin but sensitive to tobramycin- no ABX change per ID
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - ventilatory support as below
   - amikacin trough was appropriate
   # Respiratory failure: On AC/vol control ventilation
   - VBG on [**1-15**] indicated good ventilation, correlated well with prior
   ABGs
   - started Ativan on [**2169-1-13**] -  change dose given renal failure - for
   anxiety and comfort, although family requests limiting it
   - trial of PS daily
 did not tolerate on [**1-19**] (tachypneic)
   - antibiotics as above for PNA
   # Hypotension: Intermittent.  Responds to IVF bolus.  [**1-18**] - got 1 unit
   PRBCs
   - bolus to CVP 8-12 prn hypotension, and then start pressor if c/w
   family goals
   # ARF  Creatinine is rising - acute on chronic failure,with baseline
   creatinine 1.3. Etiology is likely due to drug toxicity from
   antiobiotics - urine eos +
   -- Cr has continued to rise, today's level pending
   -- f/u renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin; trough was good;  changed colistin to
   inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- Dialysis NOT within patient/family's wishes/goal of care
   # Anemia: Chronic per records but below baseline.  Stable.    Got 1
   unit PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # DM2:
   -- continue Glargine and ISS.  FS but change to [**Hospital1 **]
   # HTN:
   -- Hold antihypertensives while BP borderline
   # Hypothyroidism:
   -- continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
   # h/o HIT:  Avoid all heparin products
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-21**] 02:40 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-19**] 12:25 PM
   Prophylaxis:
   DVT: (Fondaparinox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-21 10:50:00 Physician Attending Progress Note
Chief Complaint: Resp failure [**2-6**] multi-organism VAP
   HPI:  66yo with Parkinson's Hx SDH after fall, s/p tracheostomy in [**Month (only) **]
   after resp failure [**2-6**] pna. Now admit with new resp failure,
   bronchoscopy c/w pneumonia with purulent secretions.  Sputum Cx psotive
   for Acinetobacter, PsA, ESBL- Klebsiella.  Now with ARF [**2-6**] AIN/ATN
   from medicines.
   24 Hour Events:
   - Low grade temp to 100.6
   - Suctioning every 4 hours for  thick tan secretions
   - Urine output= 1.1L
   - Attempted on PS yesterday, did not tolerate [**2-6**] tachypnea.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-1-18**] 02:00 PM
   Amikacin - [**2169-1-19**] 04:00 PM
   Colistin - [**2169-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-1-20**] 05:06 PM
   Morphine Sulfate - [**2169-1-21**] 02:00 AM
   Fondaparinux - [**2169-1-21**] 07:41 AM
   Lansoprazole (Prevacid) - [**2169-1-21**] 07:41 AM
   Other medications:
   ASA 81
   [**First Name9 (NamePattern2) 4108**] [**Last Name (un) **]
   Calcium
   Atrovent 4 puff q4h
   Synthroid 88mcg
   Lansoprazole
   Requip
   Zocor 40
   Insulin SS (none required in past 24hrs)
   Glargine 34
   Vit D
   Albuterol 4 puff Q8h
   FWF 50cc q4hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-21**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 113 (90 - 123) bpm
   BP: 92/59(68) {78/43(48) - 119/85(91)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  3,103 mL
                                                                  1,113 mL
   PO:
             TF:
                                                                  1,813 mL
                                                                    700 mL
   IVF:
                                                                    341 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    620 mL
   Urine:
                                                                  1,195 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,908 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 10.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   229 K/uL
   139 mg/dL
   2.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   43 mg/dL
   106 mEq/L
   146 mEq/L
   24.6 %
   5.5 K/uL
        [image002.jpg]
                             [**2169-1-12**]  02:51 AM
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
   WBC
   7.3
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   Hct
   25.3
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   Plt
   150
   167
   132
   167
   158
   177
   193
   182
   226
   229
   Cr
   1.1
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   Glucose
   81
   67
   117
   87
   97
   91
   110
   121
   143
   139
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:9.9 mg/dL, Mg++:1.7
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   1. Pulm-
       a) Pneumonia- On Amikacin and inhaled colistin
            - Will f/u amikacin level sent today
            - Will repeat CXR today
       b) On minimal vent settings, so will SBT today.  If tolerates will
   change to trach collar.
            - RT to check NIF
       c) I/O= even to 500 positive (given renal function)
   2. CV-
       a) blood pressure stable; MAPs>65
   3. GI- continue tube feeds
   4. Renal- Sodium high, increase FWF to 200cc q4h. Will follow q6hr Na.
   5. ID- continue Amikacin and Colisitn nebs.  Will d/c Vanc given blood
   Cx neg.
   6. Heme- crit goal >21.  DVt prophy with Fondaparinux.
   7. Endo- sugars were stable on glargine. On Insulin SS
   8. ICU
       a) Access- 1 peripheral, difficult lab draws.  Consider IR- guided
   PICC on Tues if access a problem.
       b) DNR
       c) Prophy- [**Last Name (un) 4109**], PPI.
   9. Dispo-
       a) Will set up for rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-19**] 12:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 35 minutes, patient is critically ill

2169-01-22 08:19:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   66yo with Hx SDH [**2-6**] fall, Hx presumed enterococcus aortic endocarditis
   s/p 6 weeks Abx, s/p tracheosotomy [**11-12**] due to respiratory failure [**2-6**]
   pna. Was at rehab, when developed fever and resp failure, requiring
   re-initiation of mechanical ventilation. Admit to [**Hospital1 5**] [**2169-1-11**]. On
   arrival s/p bronchoscopy with BAL, which grew ESBL Klebsiella,
   Acinetobacter x 2 species and Pseudomonas. Started on Colisitina nd
   Amikacin, c/b ARF; patient now on Amikacin and Colistin nebs.
   24 Hour Events:
   - Febrile to 38.6C overnight
   - Was tolerating Trach collar for part of day, rested on PS 5/5, 35%
   overnight.
   - Hypotensive in setting diuresis and morphine, BP improved with no
   intervention.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-1-19**] 04:00 PM
   Colistin - [**2169-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-1-21**] 05:45 PM
   Morphine Sulfate - [**2169-1-22**] 04:00 AM
   Other medications:
   Carbidopa/Levadopa
   Synthroid
   Lansoprazole
   Zocor
   ISS
   Glargine 34 u
   Ca/VitD
   fondaprinux
   FWF at 200cc q4hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-22**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 110 (103 - 125) bpm
   BP: 97/59(66) {74/21(30) - 128/106(110)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 112 kg
   Height: 72 Inch
             Total In:
                                                                  3,121 mL
                                                                  1,281 mL
   PO:
             TF:
                                                                  1,801 mL
                                                                    610 mL
   IVF:
                                                                    290 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    800 mL
   Urine:
                                                                  3,350 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -229 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (412 - 495) mL
   PC : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 86
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 11.7 L/min
   Physical Examination
   Trached, anxious appearing. Tremors c/w Parkinson
   Alert, follows commands
   Lungs rhocnhorous diffusely. Weak cough
   RRR no m/r/g  no edema
   Abd soft NTND NBS
   Weak
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   212 K/uL
   159 mg/dL
   2.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   45 mg/dL
   106 mEq/L
   147 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2169-1-13**]  04:07 AM
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
                             [**2169-1-22**]  04:54 AM
   WBC
   8.2
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   6.1
   Hct
   25.0
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   25.4
   Plt
   167
   132
   167
   158
   177
   193
   182
   226
   229
   212
   Cr
   1.1
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   2.7
   Glucose
   67
   117
   87
   97
   91
   110
   121
   143
   139
   159
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:10.3 mg/dL, Mg++:2.2
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan-
   66yo male with Parkinson
s s/p tracheostomy, with multi-organism VAP.
   Weak
   1. ID
       - Remains febrile to 101.4F
          + ETS culture, blood culture, urine culture
       - Continue Amikacin and Colistin Nebs (Day 1= [**1-12**]) for 15 day
   course
       - Will hold adding on additional Abx based on culture data since
   just finished Vanc.
   2. Pulm
       - continue diuresis
       - Continue Abx for pneumonia.
       - Will intiate MIE
       - Consult speech and swallow for PMV
   3. Renal- ARF likely [**2-6**] AIN from drug toxicitiy
       - electrolytes wnl
       - will not provide RRT
       - Meds [**Name2 (NI) 4125**] dosed
   4. GI/FEN- on tube feeds via G-tube
   5.  Endo-
        - On synthroid
   6.  Neuro
      - With weakness, likely critical illness myopathy or neuropathy.
   Needs PT
      - Will d/c BZD,
      - Sinemet for Parkinson
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-22**] 05:00 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-21**] 12:32 PM
   Prophylaxis:
   DVT:  On Fondaparinux
   Stress ulcer:  PPI
   VAP:  head of bed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  Await eval by rehab.   Will place PICC line for access.
   Total time spent: 30 mins

2169-01-23 08:09:00 Physician Resident Progress Note
Chief Complaint: PNA
   RESP FAILURE
   RENAL FAILURE
   24 Hour Events:
   -- discontinued the standing clacium carbonate because Ca levels have
   been running high
   -- placed request for PICC; came by and said should be able to do it by
   the bedside, but refused because pt febrile today to > 100.5... I
   pleaded to no effect
   -- was up and sitting in his chair
   -- have been using the MIE machine
   -- remained on trach collar throughout the night
   -- positive 600 cc o/n after lasix 40 mg IV; wrote for another lasix 40
   mg IV b/c was already running positive this morning  (down to a single
   IV; no access to do a drip)
   -- increased FW flushes from 200 --> 250 for persistent Na 147
   History obtained from Patient
   Allergies:
   History obtained from PatientTagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-1-22**] 08:00 AM
   Furosemide (Lasix) - [**2169-1-22**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-23**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 119 (102 - 123) bpm
   BP: 106/76(84) {84/39(49) - 133/80(93)} mmHg
   RR: 26 (22 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 112 kg
   Height: 72 Inch
             Total In:
                                                                  3,219 mL
                                                                  1,550 mL
   PO:
             TF:
                                                                  1,806 mL
                                                                    530 mL
   IVF:
                                                                    114 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,594 mL
                                                                    640 mL
   Urine:
                                                                  2,594 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    625 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 327 (327 - 327) mL
   PC : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   246 K/uL
   9.8 g/dL
   157 mg/dL
   2.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   48 mg/dL
   105 mEq/L
   146 mEq/L
   28.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
                             [**2169-1-22**]  04:54 AM
                             [**2169-1-23**]  03:53 AM
   WBC
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   6.1
   8.0
   Hct
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   25.4
   28.2
   Plt
   132
   167
   158
   177
   193
   182
   [**Telephone/Fax (3) 4140**]
   246
   Cr
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   2.7
   2.6
   Glucose
   117
   87
   97
   91
   110
   121
   143
   139
   159
   157
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:10.3 mg/dL, Mg++:2.1
   mg/dL, PO4:4.2 mg/dL
   Imaging: CXR [**2169-1-21**]:
   The tracheostomy is at the midline. The right internal jugular line was
   removed in the interim. Extensive pleural plaques are calcified and
   unchanged in appearance. There is no evidence of new parenchymal
   opacities worrisome for developing pneumonia but note is made that the
   presence of the calcified plaque may obscure parenchymal pathology.
   Microbiology: Blood 1/18: NGTD
   Sputum [**1-22**]: gram stain negative
   Urine [**1-22**]: NGTD
   Stool [**1-21**]: Neg for Cdiff
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
   # Fever
 most likely due to multiple organisms causing resistant PNAs.
   - pulled all lines, cultures without growth
   - stopped vanco ([**Date range (1) 4123**]) as no sig growth from line
   - f/u [**1-22**] cultures
   - ABX: we are limited in our choices given the resistant organisms - on
   Colistin IH/Amikacin since [**2169-1-12**]
   - amikacin levels from [**1-19**] = 5.1 (within acceptable range)
   - continue to culture with high spikes
   # Pneumonia - had pus in LLL on admission bronchoscopy
 there is no
   evidence for other sources on lab/micro data.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with Amikacin/Colistin  x 21 days ([**2169-1-12**] -[**2169-2-2**] )
   - f/u micro and sensitivities - some of the pseudomonas spp are
   resistent to amikacin but sensitive to tobramycin- no ABX change per ID
   - repeat cultures 1/18 with ngtd
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - on trach collar, vent support as needed
   - CXR [**1-21**] without significant change
   # Respiratory failure: weaning steadily, spent most of [**1-21**] on trach
   collar
   - continue on trach collar today; wean FIO2
   - diurese as tolerated (goal  1L neg)
   - NIF is poor ; repeat on [**1-23**] = -22
   - MIE every 4-6 hours
   - continue standing nebs
   - antibiotics as above for PNA
   # Hypernatremia
   - free H20 boluses via PEG
   # ARF
 GFR now stable.- acute on chronic failure,with baseline
   creatinine 1.3. Etiology is likely due to drug toxicity from
   antiobiotics - urine eos +
   -- renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin; trough was good;  changed colistin to
   inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- Dialysis NOT within patient/family's wishes/goal of care
   # Anemia: Chronic per records but below baseline.  Stable.   Got 1 unit
   PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
   # Intermittent hypotension
 likely med related as got morphine and
   lasix close together. Resolved spontaneously
   - monitor, prn boluses
   # DM2:
   - continue Glargine and ISS.  FS but change to [**Hospital1 **]
    # HTN:
   - Hold antihypertensives while BP borderline
    # Hypothyroidism:
   - continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
    # h/o HIT:  Avoid all heparin products
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-21**] 12:32 PM
   Prophylaxis:
   DVT: (Fondaparinox)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-23 10:47:00 Physician Attending Progress Note
Chief Complaint: HCAP
   HPI:
   66yo with Hx SDH, s/p tracheostomy for resp failure due to pna in
   [**11-12**], admit [**2169-1-11**] for hypoxemic resp failure [**2-6**] Pseudomonas, ESBL
   Klebsiella and Acinetobacter pna.
   24 Hour Events:
   - Tmax= 100.8
   - Remained on trach collar overnight
   - started on MIE, with mobilization of thick secretions.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-1-22**] 08:11 PM
   Other medications:
   ASA 81
   Carbidopa-Levidopa
   Chlorhexidine
   Atrovent
   Levothyroxine
   Lansoprazole
   Ropirnole
   Lantus 34u
   ISS (received 4 units yesterday)
   Amikacin (Day 1= [**1-12**] of 15 day course)
   Colistin Nebs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-23**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 120 (102 - 123) bpm
   BP: 113/64(76) {84/39(49) - 133/80(93)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 112 kg
   Height: 72 Inch
             Total In:
                                                                  3,219 mL
                                                                  1,877 mL
   PO:
             TF:
                                                                  1,806 mL
                                                                    783 mL
   IVF:
                                                                    114 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  2,594 mL
                                                                  1,660 mL
   Urine:
                                                                  2,594 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    625 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   FiO2: 40% TC
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Tracheostomy
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, poor tone
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   246 K/uL
   157 mg/dL
   2.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   48 mg/dL
   105 mEq/L
   146 mEq/L
   28.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-1-14**]  06:14 AM
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
                             [**2169-1-22**]  04:54 AM
                             [**2169-1-23**]  03:53 AM
   WBC
   6.6
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   6.1
   8.0
   Hct
   22.2
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   25.4
   28.2
   Plt
   132
   167
   158
   177
   193
   182
   [**Telephone/Fax (3) 4140**]
   246
   Cr
   1.0
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   2.7
   2.6
   Glucose
   117
   87
   97
   91
   110
   121
   143
   139
   159
   157
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:10.3 mg/dL, Mg++:2.1
   mg/dL, PO4:4.2 mg/dL
   Imaging: No recent CXR
   Microbiology: Blood 1/18= NGTD
   Sputum [**1-22**]= gram stain neg
   Urine [**1-21**]= NGTD
   Assessment and Plan
   Multiorganism pneumonia with resp failure, slowly improving.  With ARF.
   1. ID-
       - Continue Abx; per ID team will treat with Inhaled Colisitin for
   21 days; amikacin x 15 days(?)
   2. Pulm-
       - Wean FiO2 as tolerated
       - Speech and swallow for PMV
       - MIE every 4-6 hours; increase as needed
   3. Renal-
       - Diurese TBB goal -1L
   4. Endo- on lantus and ISS
   5. Heme- HIT; on Fondaparinux for DVT prophy
   6. GI- tube feeds via PEG
   7. ICU
        - DNR
        - Access= periph; will d/w with PICC team need for PICC
        - Prophy= Fondaparinux, PPI, In chair
        - Dispo- await transfer to rehab.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-23**] 07:02 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-21**] 12:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 35 min

2169-01-24 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tried to diurese but unfortunately was positive; limited by
   borderline BP
   - weaned FIO2
   - repeat NIF -22
   This Am, interacts but difficult to understand. No apparent distress.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-1-23**] 11:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-24**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 102 (87 - 120) bpm
   BP: 98/65(72) {71/39(46) - 129/96(104)} mmHg
   RR: 17 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 112 kg
   Height: 72 Inch
             Total In:
                                                                  4,188 mL
                                                                  1,226 mL
   PO:
             TF:
                                                                  1,808 mL
                                                                    588 mL
   IVF:
                                                                    480 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    240 mL
   Urine:
                                                                  2,680 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,508 mL
                                                                    986 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   NIF: -22 cmH2O
   Physical Examination
   General Appearance: obese, mouths words but difficult to understand
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Trach collar
   Cardiovascular: tachycardia
   Respiratory / Chest:  Rhonchorous, diminshed BS at bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: WWP, diffuse 1+ edema
   Labs / Radiology
   263 K/uL
   9.0 g/dL
   137 mg/dL
   2.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   59 mg/dL
   104 mEq/L
   144 mEq/L
   27.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
                             [**2169-1-22**]  04:54 AM
                             [**2169-1-23**]  03:53 AM
                             [**2169-1-24**]  03:01 AM
   WBC
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   6.1
   8.0
   7.5
   Hct
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   25.4
   28.2
   27.2
   Plt
   167
   158
   177
   193
   182
   226
   [**Telephone/Fax (3) 4151**]
   263
   Cr
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   2.7
   2.6
   2.8
   Glucose
   87
   97
   91
   110
   121
   143
   139
   159
   157
   137
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:10.0 mg/dL, Mg++:2.2
   mg/dL, PO4:4.8 mg/dL
   Imaging: none new
   [**1-21**] CXR
   The tracheostomy is at the midline. The right internal jugular line was
   removed in the interim. Extensive pleural plaques are calcified and
   unchanged in appearance. There is no evidence of new parenchymal
   opacities worrisome for developing pneumonia but note is made that the
   presence of the calcified plaque may obscure parenchymal pathology.
   Microbiology: [**2169-1-22**] 7:41 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2169-1-22**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   [**1-22**] BCx: NGTD
   [**1-22**] UCx: yeast 10-100K
   [**1-21**] CDiff negative
   Assessment and Plan
   66 y.o. man with complicated history, trach/peg since [**12-12**], multiple
   pneumonias with multi-drug resistent organisms, presents with fever,
   respiratory distress, found to have pseudomonal and acenitobacter
   PNAs.  Continues to spike fevers.
    # Fever
 most likely due to multiple organisms causing resistant
   PNAs.
   - pulled all lines, cultures without growth
   - stopped vanco ([**Date range (1) 4123**]) as no sig growth from line
   -  [**1-22**] cultures with only yeast in urine
 change Foley if not already
   done
   - ABX: we are limited in our choices given the resistant organisms - on
   Colistin IH/Amikacin since [**2169-1-12**]
   - amikacin levels from [**1-19**] = 5.1 (within acceptable range), f/u [**1-23**]
   level
   - continue to culture with any high spikes
   # Pneumonia - had pus in LLL on admission bronchoscopy
 there is no
   evidence for other sources on lab/micro data.
   - continue treatment for multi-drug resistent acinetobacter and
   pseudomonas with Amikacin/Colistin  x 21 days ([**2169-1-12**] -[**2169-2-2**] )
   - repeat sputum cultures 1/18 with ngtd
   - [**Hospital 858**] Rehab culture data is final , ph [**Telephone/Fax (1) 3918**]
   - on trach collar, vent support weaned off
   - CXR [**1-21**] without significant change
   # Respiratory failure: improved , now on trach collar
   - continue on trach collar today
   - diurese as tolerated (goal  1L neg)
   - NIF is poor ; repeat on [**1-23**] = -22
   - MIE every 4-6 hours
   - continue standing nebs
   - antibiotics as above for PNA
    # Hypernatremia - improved
   - free H20 boluses via PEG
    # ARF
 GFR now essentially stable.- acute on chronic failure,with
   baseline creatinine 1.3. Etiology is likely due to drug toxicity from
   antiobiotics - urine eos +
   -- renal u/s
 no hydro
   -- urine lytes, not pre-renal
   -- changed interval of amikacin; trough was good;  changed colistin to
   inhaled per ID
   -- continue hydration (bolus prn), TFs
   -- Dialysis NOT within patient/family's wishes/goal of care
    # Anemia: Chronic per records but below baseline.  Stable.   Got 1
   unit PRBCs [**2169-1-18**] for borderline BPs
   - guaiac negative
   - trend HCT daily
   - transfuse for Hct < 21, or for evidence bleeding or end organ
   ischemia
    # Intermittent hypotension
 likely med related as got morphine and
   lasix close together. Resolved spontaneously
   - monitor, prn boluses
   # DM2:
   - continue Glargine and ISS.  FS but change to [**Hospital1 **]
    # HTN:
   - Hold antihypertensives while BP borderline
    # Hypothyroidism:
   - continue synthroid
   # Parkinson's disease: Continue Sinemet, Ropinirole, no Artain per
   neuron as mayy worsen delirium
   # GERD: Continue PPI
    # h/o HIT:  Avoid all heparin products
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-24**] 02:53 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-23**] 04:50 PM
   Prophylaxis:
   DVT: Boots(fondaparinux)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2169-01-24 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has remained on trach collar for the last 24 hours. Last fever was
   Saturday: 101.4
   History obtained from Medical records
   Patient unable to provide history: tracheostomy
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-1-23**] 11:48 PM
   Other medications:
   K, colace, ASA, sinemet, peridex, atrovent/albuterol, levothyroxine,
   lansoprazole, ropinirole, simvastatin, RISS, Vitamin D, fondaparinux,
   Colistin nebs, IV amikacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-24**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 104 (87 - 118) bpm
   BP: 109/72(81) {71/39(46) - 129/96(104)} mmHg
   RR: 26 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 112 kg
   Height: 72 Inch
             Total In:
                                                                  4,188 mL
                                                                  1,691 mL
   PO:
             TF:
                                                                  1,808 mL
                                                                    716 mL
   IVF:
                                                                    480 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    360 mL
   Urine:
                                                                  2,680 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,508 mL
                                                                  1,331 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///31/
   NIF: -22 cmH2O
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   263 K/uL
   137 mg/dL
   2.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   59 mg/dL
   104 mEq/L
   144 mEq/L
   27.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2169-1-15**]  04:31 AM
                             [**2169-1-16**]  03:48 AM
                             [**2169-1-17**]  04:55 AM
                             [**2169-1-18**]  02:36 AM
                             [**2169-1-19**]  05:09 AM
                             [**2169-1-20**]  05:39 AM
                             [**2169-1-21**]  06:29 AM
                             [**2169-1-22**]  04:54 AM
                             [**2169-1-23**]  03:53 AM
                             [**2169-1-24**]  03:01 AM
   WBC
   7.4
   6.0
   7.3
   6.2
   5.4
   5.7
   5.5
   6.1
   8.0
   7.5
   Hct
   21.2
   22.7
   22.7
   24.4
   22.9
   25.0
   24.6
   25.4
   28.2
   27.2
   Plt
   167
   158
   177
   193
   182
   226
   [**Telephone/Fax (3) 4151**]
   263
   Cr
   1.2
   1.6
   1.8
   2.1
   2.4
   2.6
   2.6
   2.7
   2.6
   2.8
   Glucose
   87
   97
   91
   110
   121
   143
   139
   159
   157
   137
   Other labs: PT / PTT / INR:16.0/47.8/1.4, ALT / AST:[**4-21**], Alk Phos / T
   Bili:59/0.4, Differential-Neuts:66.7 %, Lymph:21.4 %, Mono:4.1 %,
   Eos:7.5 %, Albumin:2.8 g/dL, LDH:229 IU/L, Ca++:10.0 mg/dL, Mg++:2.2
   mg/dL, PO4:4.8 mg/dL
   Imaging: CXR:  PICC line in place, low lung volumes with unchanged b/L
   opacities
   Microbiology: BCx:  NGTD
   Sputum Cx:  NGTD
   UCx:  Yeast
   Assessment and Plan
   Multiorganism pneumonia with resp failure, slowly improving.  With ARF.
   Pneumonia:  Tolerating trach mask, secretions are less.  Fever curve
   improved.
     -Continue Abx; per ID team will treat with Inhaled Colisitin and IV
   amikacin for 21 days.  Continue to follow amikacin levels
     -Wean FiO2 as able
     -PRN MIE
     -Will attempt PMV trial
   Renal Failure: Likely related to ATN from Amikacin/Colistin.  GFR seems
   to have plateau'd
     -Will target even to slightly negative volume status to control edema
   but not add further insult to renal function.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2169-1-23**] 04:50 PM
   Prophylaxis:
   DVT: (Fondaparinux)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes